US07790714B2
(S)-6-amino-3-[(S)-2-(4′-cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-7-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (1.75 mmol) was dissolved in 5 mL EtOAc, 10 mL water and 15 g sodium bicarbonate added. 2-Chloro-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-acetyl chloride (1.93 mmol) in 5 mL EtOAc was added to the mixture. The resulting mixture stirred at r.t. for 1.5 h. The organic layer was washed with brine, dried over sodium sulfate and concentrated. The resulting residue was dissolved in 5 mL DMF and potassium carbonate (8.75 mmol) added. The reaction stirred at r.t. for 3 h and was poured onto ethyl acetate and water. The organic was dried and concentrated. The residue was purified over silica gel (-hexanes-ethyl acetate) to provide (S)-7-[(S)-2-(4′-Cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6-carboxylic acid tert-butyl ester (931 mg). LC-MS (m/z) 862.

reactant | (S)-6-amino-3-[(S)-2-(4′-cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-7-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 1.75 mmol | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)C(=O)OC)=O)N)O | C32H34N4O6
reactant | sodium bicarbonate | 15 g | C([O-])(O)=O.[Na+]
reactant | 2-Chloro-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-acetyl chloride | 1.93 mmol | ClC(C(=O)Cl)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C15H10Cl4O2
reactant | potassium carbonate | 8.75 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
product | (S)-7-[(S)-2-(4′-Cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6-carboxylic acid tert-butyl ester | 931 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3O[C@H](C(NC3=CC2CC1C(N[C@@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)C(=O)OC)=O)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C47H42Cl2N4O8
